US08076359B2
Step 1: 3,5-Bis(2-methoxyethoxy)benzaldehyde
To a solution of 3,5-dihydroxybenzaldehyde (1 eq.) in DMF (0.36 M) was added cesium carbonate (3 eq.) and 2-bromoethyl methyl ether (5.1 eq.). The reaction was heated to 50° C. and stirred for 18 h. After cooling to ambient temperature, the reaction mixture was diluted with EtOAc/ether (1:1 v/v) and washed with saturated aqueous NH4Cl solution, water, and brine. The organic extract was dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 10%→75% EtOAc in Hex) to afford the title compound as a yellow oil.

reactant | 3,5-dihydroxybenzaldehyde | 1 eq. | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | cesium carbonate | 3 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoethyl methyl ether | 5.1 eq. | COCCBr | C3H7BrO
reactant | EtOAc ether | CCOC(=O)C.CCOCC
solvent | DMF | 0.36 M | CN(C)C=O | C3H7NO
product | 3,5-Bis(2-methoxyethoxy)benzaldehyde | COCCOC=1C=C(C=O)C=C(C1)OCCOC | C13H18O5
